2153-03-26 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   66M with h/o refractory multiple myeloma s/p autologous SCT and h/o
   GERD with h/o esophagitis and dilation for esophageal ring in [**2150**],
   thrombocytopenia, coagulopathy and uremia admitted for GIB associated
   with hypotension.
   Events over night:
   -10 L normal saline
   -8 units of blood
   -10 of cryo
   -4 of FFP
   -s/p intubation
   -s/p dropping pressures and starting neo
   -s/p bedside upper Endoscopy with clots in the stomach
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2153-3-26**] 06:30 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-26**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 75 (74 - 127) bpm
   BP: 166/88(107) {69/42(48) - 166/103(112)} mmHg
   RR: 19 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
            Total In:
            15,672 mL
   PO:
            TF:
   IVF:
   10,739 mL
   Blood products:
   4,933 mL
   Total out:
                                                                      0 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 15,622 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 7.4 L/min
   Physical Examination
   Gen: sedated, not arousable, pupils pinpint
   Cardiac: rrr
   Abd: distended, somewhat tense, no rebound, no tenderness
   Extremities: 2+ -> 3+ edema bilaterally, Dp pulses +1, blisters on feet
   bilaterally, radial pulses +2
   Labs / Radiology
   78 K/uL
   10.1 g/dL
   149 mg/dL
   4.9 mg/dL
   19 mEq/L
   4.6 mEq/L
   74 mg/dL
   109 mEq/L
   142 mEq/L
   29.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2153-3-26**]  12:48 AM
                             [**2153-3-26**]  05:29 AM
   WBC
   5.3
   6.5
   Hct
   17.4
   29.0
   Plt
   36
   78
   Cr
   6.0
   4.9
   TropT
   0.05
   Glucose
   102
   149
   Other labs: PT / PTT / INR:15.8/33.3/1.4, CK / CKMB /
   Troponin-T:25/3/0.05, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:16.0
   %, Mono:3.0 %, Eos:1.0 %, Ca++:6.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   66M with h/o refractory multiple myeloma s/p autologous SCT and h/o
   GERD with h/o esophagitis and dilation for esophageal ring in [**2150**],
   thrombocytopenia, coagulopathy and uremia admitted for GIB associated
   with hypotension.
   .
   #. GIB: Patient with history of gastritis, without h/o GIB in past.
   High risk for bleed as is s/p defibrotide (per notes, 21 day course
   finished [**3-17**]), thrombocytopenic, coagulopathic, uremic.  Patient was
   resuscitated with  pRBCs 8 units, platelets 1 unit, FFP 4 units, ddAVP,
   cryo, and 10 L NS. Bedside EGD showed large clot in stomach up to mid
   esophagus indicating large old bleed. Ddx includes [**First Name4 (NamePattern1) 331**] [**Last Name (NamePattern1) **] tear,
   bleeding gastric ulcer, espophagitis, etc. No evidence of active bleed
   currently however, status still tenuous.
   - GI following, plan to reattempt EGD today and requests dose of
   azithromycin prior
   - Surgery was consulted but pt not surgical candidate
   - Continue protonix 40mg IV BID
   - Erythromycin 250mg IV Q6hr per GI recs to help old clot pass
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - IR for tagged RBC scan if new active bleeding
   - Check CBC Q4hrs, transfuse to keep Hct>21 or for any significant drop
   in HCT or apparent bleeding, transfuse 4 units
   - transfuse platelets to keep Plt>50 in case pt needs procedure
   - Maintain active type and cross
   - Access: RIJ HD catheter, right femoral cordis line, R wrist 22g PIV
   - DIC workup appears negative
   .
   #. Hypotension: Likely [**1-15**] volume loss from GIB. Blood pressure
   initially fluid responsive but requiring pressors prior to intubation.
   Patient on neosynephrine.  Etiology of hypotension could include
   continue bleeding, sub sufficient EF, intubation, sepsis, or sedating
   medications.
   - continue resuscitation with pRBCs and IVF
   - wean down neosynephrine as tolerated, keeping MAP>65 and CVP 10-12
   - a line placed this AM
   - hold all BP meds
   .
   #. s/p Intubation: On fentanyl and midazolam. Pt may have aspirated
   during intubation, high risk for aspiration pneumonitis
   - wean versed, shut off for now
   - continue intubated for now
   - monitor for signs of PNA
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Concern that rash represents GVHD and pt could
   have GVHD in GI track.
   - BMT team following
   - Continue neural
   - appreciate BMT recs will follow up recs in chart and likely start
   high dose steroids for subadequate cyclosporin levels and tx of GVHD
   which may be causing new rash
   .
   #. Acute renal failure: Per renal, acute renal failure c/w ATN [**1-15**] CSA
   vs VOD. Undergoing HD with RIJ HD line in place. Underwent HD on [**3-23**]
   with UF of 5kg w/o problem. [**Name (NI) **] was originally due for HD [**3-26**]. Was
   given ddAVP for uremic bleeding.
   - nephrology following, no need to start CVVH today
   - monitor Cr, fluid status
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #. FUO workup: Patient with extensive course of multiple possible
   infections, unclear etiology for prior FUO. No fever since arrival to
   floor
   - continue daptomycin, cefepime, anidulafungin for now
   - discuss with BMT team regarding infectious workup to date
   - f/u cultures
   ICU Care
   Nutrition: NPO, change all meds to IV
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   22 Gauge - [**2153-3-26**] 02:03 AM
   Cordis/Introducer - [**2153-3-26**] 02:56 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI (monitor given recently stopped by BMT for concern of
   decreasing platelets)
   VAP:
   Comments:
   Communication:  Comments: With wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2153-03-27 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   GI did EGD and saw some erythematous lesions and clipped them, was
   unable to unroof large clot/blood blister, will repeat [**3-27**]
   Hct remained stable 25.9-25.8-2Units->28.7-28.8-26.2-27.2
   Weaned sedation
   CVP was around 20
   Weaned off neosynephrine
   MVO2 was 78%
   CSA level was 101
   Decided against steroids (for now)
   Transfused 2 units platelets.  4am PLT 35
 45.  Getting another unit
   PLTs currently.
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Erythromycin - [**2153-3-27**] 05:56 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-26**] 08:29 PM
   Fentanyl - [**2153-3-27**] 05:55 AM
   Midazolam (Versed) - [**2153-3-27**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-27**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.8
C (96.5
   HR: 77 (76 - 100) bpm
   BP: 127/70(90) {94/43(58) - 164/89(118)} mmHg
   RR: 21 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 20 (20 - 20)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Mixed Venous O2% Sat: 79 - 79
   Total In:
                                                                 18,976 mL
                                                                    842 mL
   PO:
   TF:
   IVF:
                                                                 12,888 mL
                                                                    440 mL
   Blood products:
                                                                  6,088 mL
                                                                    402 mL
   Total out:
                                                                  1,213 mL
                                                                    169 mL
   Urine:
                                                                    313 mL
                                                                    119 mL
   NG:
   Stool:
                                                                    900 mL
                                                                     50 mL
   Drains:
   Balance:
                                                                 17,763 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 265 (265 - 265) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/33/81.[**Numeric Identifier 8**]/19/-2
   Ve: 13.8 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Gen: Well appearing male, does not appear acutely ill
   HEENT: MMM, mild rosacea noted of the R upper eyelid
   Heart: RRR
   Lungs: CTAB
   Abdomen: Soft, NT/ND, +BS
   Extremities: 1+ bilateral edema
   Labs / Radiology
   45 K/uL
   9.8 g/dL
   100 mg/dL
   5.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   103 mg/dL
   111 mEq/L
   140 mEq/L
   27.2 %
   5.1 K/uL
        [image002.jpg]
                             [**2153-3-26**]  05:29 AM
                             [**2153-3-26**]  08:39 AM
                             [**2153-3-26**]  10:52 AM
                             [**2153-3-26**]  02:38 PM
                             [**2153-3-26**]  06:32 PM
                             [**2153-3-26**]  10:00 PM
                             [**2153-3-27**]  01:03 AM
                             [**2153-3-27**]  04:01 AM
                             [**2153-3-27**]  04:28 AM
                             [**2153-3-27**]  05:45 AM
   WBC
   6.5
   5.1
   Hct
   29.0
   26.9
   25.8
   28.7
   28.3
   26.2
   27.2
   Plt
   78
   12
   39
   35
   45
   Cr
   4.9
   5.4
   TCO2
   22
   22
   Glucose
   149
   100
   Other labs: PT / PTT / INR:14.7/32.6/1.3; D-dimer:8371 ng/mL,
   Fibrinogen:345 mg/dL, Lactic Acid:0.9 mmol/L, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   66M with h/o refractory multiple myeloma s/p autologous SCT and h/o
   GERD with h/o esophagitis and dilation for esophageal ring in [**2150**],
   thrombocytopenia, coagulopathy and uremia admitted for GIB associated
   with hypotension.
   .
   #. GIB: Patient with history of gastritis, without h/o GIB in past.
   High risk for bleed as is s/p defibrotide (per notes, 21 day course
   finished [**3-17**]), thrombocytopenic, coagulopathic, uremic.  Patient was
   resuscitated with  pRBCs 8 units, platelets 1 unit, FFP 4 units, ddAVP,
   cryo, and 10 L NS. Bedside EGD showed large clot in stomach up to mid
   esophagus indicating large old bleed. Ddx includes [**First Name4 (NamePattern1) 331**] [**Last Name (NamePattern1) **] tear,
   bleeding gastric ulcer, espophagitis, etc. No evidence of active bleed
   currently however, status still tenuous.
   - GI following, plan to reattempt EGD today and requests dose of
   azithromycin prior
   - Surgery was consulted but pt not surgical candidate
   - Continue protonix 40mg IV BID
   - Erythromycin 250mg IV Q6hr per GI recs to help old clot pass
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - IR for tagged RBC scan if new active bleeding
   - Check CBC Q4hrs, transfuse to keep Hct>21 or for any significant drop
   in HCT or apparent bleeding, transfuse 4 units
   - transfuse platelets to keep Plt>50 in case pt needs procedure
   - Maintain active type and cross
   - Access: RIJ HD catheter, right femoral cordis line, R wrist 22g PIV
   - DIC workup appears negative
   .
   #. Hypotension: Likely [**1-15**] volume loss from GIB. Blood pressure
   initially fluid responsive but requiring pressors prior to intubation.
   Patient on neosynephrine.  Etiology of hypotension could include
   continue bleeding, sub sufficient EF, intubation, sepsis, or sedating
   medications.
   - continue resuscitation with pRBCs and IVF
   - wean down neosynephrine as tolerated, keeping MAP>65 and CVP 10-12
   - a line placed this AM
   - hold all BP meds
   .
   #. s/p Intubation: On fentanyl and midazolam. Pt may have aspirated
   during intubation, high risk for aspiration pneumonitis
   - wean versed, shut off for now
   - continue intubated for now
   - monitor for signs of PNA
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Concern that rash represents GVHD and pt could
   have GVHD in GI track.
   - BMT team following
   - Continue neural
   - appreciate BMT recs will follow up recs in chart and likely start
   high dose steroids for subadequate cyclosporin levels and tx of GVHD
   which may be causing new rash
   .
   #. Acute renal failure: Per renal, acute renal failure c/w ATN [**1-15**] CSA
   vs VOD. Undergoing HD with RIJ HD line in place. Underwent HD on [**3-23**]
   with UF of 5kg w/o problem. [**Name (NI) **] was originally due for HD [**3-26**]. Was
   given ddAVP for uremic bleeding.
   - nephrology following, no need to start CVVH today
   - monitor Cr, fluid status
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #. FUO workup: Patient with extensive course of multiple possible
   infections, unclear etiology for prior FUO. No fever since arrival to
   floor
   - continue daptomycin, cefepime, anidulafungin for now
   - discuss with BMT team regarding infectious workup to date
   - f/u cultures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   22 Gauge - [**2153-3-26**] 02:03 AM
   Cordis/Introducer - [**2153-3-26**] 02:56 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-03-28 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   66M with h/o refractory multiple myeloma s/p autologous SCT and h/o
   GERD with h/o esophagitis and dilation for esophageal ring in [**2150**],
   thrombocytopenia, coagulopathy and uremia admitted for GIB associated
   with hypotension.
   24 Hour Events:
   -Extubated yesterday
   -FEVER - 101.8
F - [**2153-3-27**] 06:00 PM vancomycin started, UA + for
   bacteria but no white cells
   -Endoscopy showed friable lesions which were biopsied ? GVHD vs CMV
   -femoral central line pulled and cx tip
   -HCT stable
   -got several units of platelets yesterday, plts trending down to 25 at
   2 am and then 20 this AM and got one unit of plts.
   -dropped pressures to 80s and received 1.5L of NS
   -dialysis of 3.7L yesterday and 4L today
   -+ increased blisters on skin
   -nursing concerned about breathing overnight, looked like pt was
   dysynchronous and had forced expiration
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2153-3-27**] 02:25 PM
   Daptomycin - [**2153-3-27**] 08:00 PM
   Vancomycin - [**2153-3-28**] 04:14 AM
   Erythromycin - [**2153-3-28**] 06:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-27**] 08:29 AM
   Midazolam (Versed) - [**2153-3-27**] 12:05 PM
   Fentanyl - [**2153-3-27**] 12:20 PM
   Meperidine (Demerol) - [**2153-3-27**] 05:15 PM
   Morphine Sulfate - [**2153-3-28**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-28**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.5
   HR: 101 (80 - 126) bpm
   BP: 145/77(95) {81/46(59) - 178/103(132)} mmHg
   RR: 25 (17 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.8 kg (admission): 107.6 kg
             Total In:
                                                                  4,858 mL
                                                                    865 mL
   PO:
             TF:
   IVF:
                                                                  3,530 mL
                                                                    865 mL
   Blood products:
                                                                  1,327 mL
   Total out:
                                                                  4,019 mL
                                                                     91 mL
   Urine:
                                                                    269 mL
                                                                     91 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                    839 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula currently on 3L
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 845 (845 - 845) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.40/40/130//0
   Ve: 15 L/min
   PaO2 / FiO2: 371
   Physical Examination
   Gen: arousable, A & Ox3 later only x2 and did not know yr.
   HEENT: PERRL
   Cardiac: mildly tachycardic
   Pulm: Decreased breath sounds in left lower lung anteriorly
   Abd: decreased bs, soft, NTND
   Extremities:3+ LE edema unable to appreciate DP pulse but feet are
   warm, + UE edema, radial pulses intact
   Skin: [**Location (un) 5412**] rash on face, multiple petechial rose lesions on UE and LE,
   arms wrapped in gauze for blisters on arms, + blisters on legs
   Labs / Radiology
   25 K/uL
   9.8 g/dL
   96 mg/dL
   5.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   103 mg/dL
   111 mEq/L
   140 mEq/L
   25.7 %
   5.1 K/uL
        [image002.jpg] UA: + nitrite, leuk neg, few bacteria, + blood
   CMV viral load pending
   CMV cx pending
   [**Last Name (un) **] tip cx pending
   Urine cx pending
   Cyclosporine level pending
                             [**2153-3-27**]  01:03 AM
                             [**2153-3-27**]  04:01 AM
                             [**2153-3-27**]  04:28 AM
                             [**2153-3-27**]  05:45 AM
                             [**2153-3-27**]  09:23 AM
                             [**2153-3-27**]  02:13 PM
                             [**2153-3-27**]  06:08 PM
                             [**2153-3-27**]  09:06 PM
                             [**2153-3-28**]  12:04 AM
                             [**2153-3-28**]  12:18 AM
   WBC
   5.1
   Hct
   26.2
   27.2
   26.4
   26.8
   25.8
   25.7
   Plt
   39
   35
   45
   46
   62
   34
   25
   Cr
   5.4
   TCO2
   22
   28
   26
   Glucose
   100
   96
   Other labs: PT / PTT / INR:14.7/32.6/1.3, CK / CKMB /
   Troponin-T:25/3/0.05, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:16.0
   %, Mono:3.0 %, Eos:1.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL,
   Lactic Acid:0.7 mmol/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   66M with h/o refractory multiple myeloma s/p autologous SCT and h/o
   GERD with h/o esophagitis and dilation for esophageal ring in [**2150**],
   thrombocytopenia, coagulopathy and uremia admitted for GIB associated
   with hypotension.
   .
   #. GIB: High risk for bleed as is s/p defibrotide (per notes, 21 day
   course finished [**3-17**]), thrombocytopenic, coagulopathic, uremic.  Patient
   was resuscitated on   pRBCs 8 units, platelets 1 unit, FFP 4 units,
   ddAVP, cryo, and 10 L NS. Bedside EGD showed large clot in stomach up
   to mid esophagus indicating large old bleed. But no foal bleeding
   lesion was identified.  Patient is to have another EGD today with
   biopsies as there is concern for GVHD in this patient.  Patient remains
   intubated.  Patient is also thrombocytopenic, s/p 2u PLTs.
   - GI following, plan to reattempt EGD today
   - Continue protonix 40mg IV BID
   - Erythromycin 250mg IV Q6hr per GI recs to help old clot pass
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC Q6hrs, transfuse to keep Hct>25
   - transfuse platelets to keep Plt>50
   - Maintain active type and cross
   - Access: RIJ HD catheter, right femoral cordis line, R wrist 22g PIV
   - DDAVP
   .
   #. Hypotension:  Resolved, off pressors.
   - Monitor
   .
   #. s/p Intubation: On fentanyl and midazolam. Pt may have aspirated
   during intubation, high risk for aspiration pneumonitis.
   -          Keep patient intubated for now until EGD done.
   -          Switch to propofol boluses as pt is HD stable.
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Concern that rash represents GVHD and pt could
   have GVHD in GI track.
   - BMT team following
   - Continue neural
   - Cont Cyclosporine 75mg IB [**Hospital1 **], check level
   .
   #. Acute renal failure: Per renal, acute renal failure c/w ATN [**1-15**] CSA
   vs VOD. Undergoing HD with RIJ HD line in place. Underwent HD on [**3-23**]
   with UF of 5kg w/o problem. [**Name (NI) **] was originally due for HD [**3-26**]. Was
   given ddAVP for uremic bleeding.
   -          Dialysis todau
   -          - ddAVP today
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #. FUO workup: Tmax 100.8.  Patient with extensive course of multiple
   possible infections, unclear etiology for prior FUO.
   - continue daptomycin, cefepime, anidulafungin for now
   - discuss with BMT team regarding infectious workup to date
   - f/u cultures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   22 Gauge - [**2153-3-26**] 02:03 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-03-29 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Dialysis 4L taken off
   -HCT stable, plt stable
   -spiked fever 101.3, RR in 40, SBP in 160s. got tylenol, morphine,
   nebs, demerol.  CXR looked fluid up and ? new infiltrates.
   -d/c erythromycin and vancomyci
   -getting am cyclosporine dose
   - getting one UNIT PRBCs and platelets
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2153-3-27**] 02:25 PM
   Daptomycin - [**2153-3-27**] 08:00 PM
   Vancomycin - [**2153-3-28**] 04:14 AM
   Erythromycin - [**2153-3-28**] 06:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-28**] 08:18 PM
   Morphine Sulfate - [**2153-3-28**] 11:53 PM
   Meperidine (Demerol) - [**2153-3-28**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-29**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.6
C (97.8
   HR: 102 (95 - 135) bpm
   BP: 122/68(88) {109/56(74) - 183/99(128)} mmHg
   RR: 32 (23 - 38) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.8 kg (admission): 107.6 kg
             Total In:
                                                                  1,696 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                  1,500 mL
                                                                     61 mL
   Blood products:
                                                                    196 mL
   Total out:
                                                                  4,161 mL
                                                                      0 mL
   Urine:
                                                                    161 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,465 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: Lethargic, follows commands, oriented to [**Hospital3 **] and [**Month (only) 230**],
   tachypnic, rigoring
   HEENT: Scleral injection, Erythema resolving
   Heart: Tachycardic, regular
   Lungs: Rhonchi on R side of chest
   Abd: Soft, NT, obese, BS hypoactive
   Ext: 3+ pitting edema of entire lower extremities
   Labs / Radiology
   15 K/uL
   8.1 g/dL
   100 mg/dL
   4.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   83 mg/dL
   110 mEq/L
   141 mEq/L
   23.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2153-3-27**]  02:13 PM
                             [**2153-3-27**]  06:08 PM
                             [**2153-3-27**]  09:06 PM
                             [**2153-3-28**]  12:04 AM
                             [**2153-3-28**]  12:18 AM
                             [**2153-3-28**]  05:56 AM
                             [**2153-3-28**]  01:37 PM
                             [**2153-3-28**]  06:43 PM
                             [**2153-3-28**]  10:35 PM
                             [**2153-3-29**]  04:29 AM
   WBC
   4.1
   3.9
   Hct
   26.8
   25.8
   25.7
   25.3
   25.3
   25.1
   23.2
   Plt
   62
   34
   25
   20
   21
   21
   21
   15
   Cr
   3.8
   4.8
   TCO2
   28
   26
   Glucose
   96
   107
   100
   Other labs: PT / PTT / INR:16.5/35.0/1.5, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:14/22, Alk Phos / T Bili:123/2.7,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:16.0 %, Mono:3.0 %,
   Eos:1.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:0.7
   mmol/L, Albumin:2.4 g/dL, LDH:239 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   .
   #. GIB: High risk for bleed as is s/p defibrotide (per notes, 21 day
   course finished [**3-17**]), thrombocytopenic, coagulopathic, uremic.  Patient
   was resuscitated on   pRBCs 8 units, platelets 1 unit, FFP 4 units,
   ddAVP, cryo, and 10 L NS. Bedside EGD showed large clot in stomach up
   to mid esophagus indicating large old bleed.  On repeat EGD were
   friable lesions. Got several units of platelets yesterday
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - d/c Erythromycin 250mg IV Q6hr
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC Q8-12hrs, transfuse to keep Hct>25
   - transfuse platelets to keep Plt>20, got one unit of plts this AM
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV
   - DDAVP
   .
   # Respiratory: tachypneic, thick brown secretions, spiking fevers and
   rigoring. ? PNA on CXR. Oxygen requirement partially [**1-15**] large volume
   overload.
   -diuresing with dialysis
   - concentrate antibiotics
   - Consider switching daptomycin to linezolid for lung penetration will
   have to closely monitor platelets
   .
   #Fevers: GVHD vs. PNA vs. CMV viremia. CMV viral load just above
   detectable, very unlikely to be causing severe disease at this level.
   Given GI lesions and skin blisters could be GVHD and has been having
   fevers/rigors for several weeks now not responding to Abx.
   - f/u gastric Bx
   - F/u ID reccomendations
   - consider changing Abx or stopping Abx and starting steroids
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Concern that rash represents GVHD and pt could
   have GVHD in GI track.
   - BMT team following, follow up recommendations
   - check cyclosporine trough today
   = f/u biopsy
   .
   #. Acute renal failure: Per renal, acute renal failure c/w ATN [**1-15**] CSA
   vs VOD. Undergoing HD with RIJ HD line in place. Underwent HD on [**3-23**]
   with UF of 5kg w/o problem. [**Name (NI) **] was originally due for HD [**3-26**]. Was
   given ddAVP for uremic bleeding.  Got 3.7L off yesterday and 4L off
   today.
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #. FUO workup: Patient with extensive course of multiple possible
   infections, unclear etiology for prior FUO.
   - continue daptomycin, cefepime, anidulafungin for now.  Spiked fever
   again last night.
   -d/c vanco as not giving additional fever.
   - discuss with BMT team regarding infectious workup to date
   - f/u cultures
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: VIP port on dialysis catheter, art line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   22 Gauge - [**2153-3-26**] 02:03 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-03-29 10:53:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HCT with continued good stability across time  25-->23
   ABX refined to minimum required
   Patient did have recurrent fever/tachypnea noted across the night.
   He did have good tolerance of negative fluid balance at dialysis
   yesterday evening
   24 Hour Events:
 BLOOD CULTURED - At [**2153-3-29**] 12:20 AM
 BLOOD CULTURED - At [**2153-3-29**] 01:03 AM
 URINE CULTURE - At [**2153-3-29**] 01:14 AM
 FEVER - 101.1
F - [**2153-3-28**] 11:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2153-3-27**] 02:25 PM
   Daptomycin - [**2153-3-27**] 08:00 PM
   Vancomycin - [**2153-3-28**] 04:14 AM
   Erythromycin - [**2153-3-28**] 06:16 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2153-3-28**] 11:54 PM
   Morphine Sulfate - [**2153-3-29**] 07:10 AM
   Lorazepam (Ativan) - [**2153-3-29**] 08:10 AM
   Pantoprazole (Protonix) - [**2153-3-29**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2153-3-29**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98
   HR: 118 (96 - 135) bpm
   BP: 154/85(109) {112/57(76) - 183/99(128)} mmHg
   RR: 36 (23 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.8 kg (admission): 107.6 kg
           Total In:
                                                                  1,696 mL
                                                                    313 mL
   PO:
           TF:
   IVF:
                                                                  1,500 mL
                                                                    115 mL
   Blood products:
                                                                    196 mL
                                                                    198 mL
   Total out:
                                                                  4,161 mL
                                                                      0 mL
   Urine:
                                                                    161 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,465 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.40/39/98.[**Numeric Identifier 500**]/21/0
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
Patient with spontaneous movements noted.  He does have
   some vocalization to voice commands but not follwed in orgaized
   fashion.
   Labs / Radiology
   8.1 g/dL
   22 K/uL
   100 mg/dL
   4.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   83 mg/dL
   110 mEq/L
   141 mEq/L
   23.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2153-3-27**]  09:06 PM
                             [**2153-3-28**]  12:04 AM
                             [**2153-3-28**]  12:18 AM
                             [**2153-3-28**]  05:56 AM
                             [**2153-3-28**]  01:37 PM
                             [**2153-3-28**]  06:43 PM
                             [**2153-3-28**]  10:35 PM
                             [**2153-3-29**]  04:29 AM
                             [**2153-3-29**]  07:37 AM
                             [**2153-3-29**]  07:45 AM
   WBC
   4.1
   3.9
   Hct
   25.7
   25.3
   25.3
   25.1
   23.2
   Plt
   25
   20
   21
   21
   21
   15
   22
   Cr
   3.8
   4.8
   TCO2
   28
   26
   25
   Glucose
   96
   107
   100
   Other labs: PT / PTT / INR:16.5/35.0/1.5, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:17/26, Alk Phos / T Bili:126/2.7,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.0 %, Mono:10.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:229 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Imaging: CXR-poor technique, low lung volumes on repeat last evening
   [**3-28**] in am-->Patient with diffuse bilateral infiltrates with decreased
   lung volumes.
   Assessment and Plan
   66 yo male with h/o multiple myeloma and now admitted to ICU with
   significnat GI bleed now with improved hematocrit stability.  He has
   continued good tolerance of wean of O2 but has intermittent fevers and
   tachypnea across last night. This has been recurrent following
   extubation and is concerning for persistent or evolving infection.
   1)Altered Mental Status-Has significant variation in mental status
   across time consistent with delirium
this is variable across time and
   is clearly worsening in the setting of fevers and dialysis which would
   suggest metabolic insult with multi-factorial insult driving changes.
   -Continue to follow exam across time
   -No findings on head imaging from weeks ago but exam has not
   demonstrated persistent change from that time
   2)GI Bleed-Gastic level insult
source remains to be defined with
   biopsies pending.
   -Patient with persistent stability of HCT
   -Will need F/U of biopsy
   -Continue with PPI
   -HCT q 12 hours given stability seen
   -Has P-IV and will move to PICC placement
   3)Fever
Unknown Origin
has been maintained on extensive antibiotic
   regimen and is maintaining extensive antibiotic regimen
   -Daptomycin/Cefepime/Nystatin/Clotimazole/Antifungal
   -CXR to be repeated following continued negative fluid balance to view
   lungs in optimal fluid balance state
   -Will suction for sputum  sample if convincing infiltrate seen on CXR
   with fluid status optimized
   -[**Month (only) 11**] be related to GVHD and will defer to BMT team for Rx in that case
   -Medications driving fever are possible.
   -Urine Legionella pending
   -Derm to eval for possible rash source
   4)End state renal disease
   -HD today
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RASH
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 THROMBOCYTOPENIA, ACUTE
 COAGULOPATHY
 PNEUMONIA, ASPIRATION
 TRANSPLANT, BONE MARROW (BMT)
   ICU Care
   Nutrition: npo
will move to PICC and TPN
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   22 Gauge - [**2153-3-26**] 02:03 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-03-30 12:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Dialyzed off 4L
   Rigoring and tachypnic
   ID consulted, CMV viral load barely positive. Abx switched to
   vancomycin (for better lung penetration) and meropenem, started on
   gancyclovir. ID also suggested sending galactomannan and beta-glucan.
   Had large melanotic stool and Hct dropped after recieving one unit.
   Continued to have maroon stools so GI scoped again with elective
   intubation. Only diffuse areas of abnormal mucosa with oozing were
   found and injected w/ epinephrine. Transfused again and Hct bumped
   appropriately, platelets bumped appropriately as well.
   Did not get PICC
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2153-3-27**] 02:25 PM
   Daptomycin - [**2153-3-27**] 08:00 PM
   Erythromycin - [**2153-3-28**] 06:16 AM
   Vancomycin - [**2153-3-29**] 05:08 PM
   Meropenem - [**2153-3-29**] 06:43 PM
   Gancyclovir - [**2153-3-29**] 09:17 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-3-29**] 03:13 PM
   Morphine Sulfate - [**2153-3-29**] 06:14 PM
   Pantoprazole (Protonix) - [**2153-3-29**] 07:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-30**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 98 (93 - 127) bpm
   BP: 126/68(87) {74/43(54) - 159/88(115)} mmHg
   RR: 32 (16 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,604 mL
                                                                  1,412 mL
   PO:
   TF:
   IVF:
                                                                  1,001 mL
                                                                    496 mL
   Blood products:
                                                                  1,603 mL
                                                                    916 mL
   Total out:
                                                                  5,000 mL
                                                                    165 mL
   Urine:
                                                                    100 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -2,396 mL
                                                                  1,247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 377 (377 - 1,524) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 6 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.46/34/103/26/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Sedated on the vent, not responding to commands or withdrawing
   from painful stimuli
   HEENT: Erythema of head and neck appears somewhat more intense than
   previous. Pupils equal and reactive to light
   Heart: Tachycardic, regular, distant heart sounds
   Lungs: Rhonchi in RML
   Abd: BS+, ND, NT
   Ext: 3+ pitting edema to entire [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**]
   Labs / Radiology
   39 K/uL
   8.3 g/dL
   92 mg/dL
   3.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   55 mg/dL
   107 mEq/L
   144 mEq/L
   23.9 %
   3.9 K/uL
        [image002.jpg]
                             [**2153-3-28**]  06:43 PM
                             [**2153-3-28**]  10:35 PM
                             [**2153-3-29**]  04:29 AM
                             [**2153-3-29**]  07:37 AM
                             [**2153-3-29**]  07:45 AM
                             [**2153-3-29**]  01:55 PM
                             [**2153-3-29**]  06:21 PM
                             [**2153-3-30**]  01:08 AM
                             [**2153-3-30**]  04:52 AM
                             [**2153-3-30**]  05:20 AM
   WBC
   3.9
   3.9
   Hct
   25.1
   23.2
   26.0
   22.8
   25.5
   23.9
   Plt
   21
   21
   15
   22
   22
   23
   42
   39
   Cr
   4.8
   3.7
   TCO2
   25
   25
   Glucose
   100
   92
   Other labs: PT / PTT / INR:16.6/35.7/1.5, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:17/26, Alk Phos / T Bili:126/2.7,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.0 %, Mono:10.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:229 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   .
   #Hypotension: Transient. Resolved with decreasing propofol and recurred
   with restarting propofol. Not related to changes in HR and no beta
   blockers present. Most likely represents propofol induced vasodilation,
   doubt sepsis, cardiogenic shock or hemorrhage given that it improved
   with decreasing propofol.
   - follow BP
   - minimize sedation
   .
   #. GIB: EGD last night showed diffuse oozing lesions that were injected
   with epinephrine. Hct now stable from last check.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC Q4-6hrs, transfuse to keep Hct>25
   - transfuse platelets to keep Plt>50
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   .
   # Respiratory: New infiltrate appearing on CXR this am. Per ID switched
   Abx yesterday.   Still massively volume overloaded. Has not had any
   respiratory changes since being intubated.
   - Spontaneous breathing trial and extubate if remains HD stable
   -diuresing with dialysis
   - concentrate antibiotics
   - vancomycin/meropenem
   .
   #Fevers: Still spiking fevers w/ rigors, not responding to Abx. Gastric
   Bx negative for GVHD
   - f/u gastric Bx for CMV
   - F/u ID reccomendations
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Per derm, unlikely that rash represents GVHD and
   gastric Bx negative for GVHD.
   - BMT team following, follow up recommendations
   - check cyclosporine trough today dose accordingly
   .
   #. Acute renal failure: Does not appear to be improving. Pt. stated
   wishes previously that he would not want to be on dialysis long term.
   Will continue to try to remove fluid w/ dialysis and UF.
   - family meeting re: goals of care.
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #Nutrition: Not currently getting any nutrition. Plan for TPN
   - Nutrition consult for TPN
   - PICC line placement for TPN
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: VIP port on dialysis catheter, art line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-03-31 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   Events overnight:
   -2 units of platelets
   -not transfused more blood
   -initially did well on SBT but later had tachypnea
   -sputum cx sent
   -family meeting decision to do everything possible
   -got IVIG
   -cyclosporine level sent
   -pt received IVIG
   -UPEP
   -optho consulted to look at left eye
   -CMV viral load repeated
   -urine benzos positive
   -derm felt rash was viral
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-29**] 05:08 PM
   Meropenem - [**2153-3-29**] 06:43 PM
   Gancyclovir - [**2153-3-29**] 09:17 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-30**] 08:03 PM
   Morphine Sulfate - [**2153-3-30**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-31**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.1
C (98.7
   HR: 77 (77 - 113) bpm
   BP: 144/84(104) {74/43(54) - 160/88(115)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
    CVP: 14 (10 - 18)mmHg
   Total In:
                                                                  2,969 mL
                                                                    745 mL
   PO:
   TF:
   IVF:
                                                                  1,157 mL
                                                                    291 mL
   Blood products:
                                                                  1,812 mL
                                                                    454 mL
   Total out:
                                                                    335 mL
                                                                      0 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,634 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 377 (377 - 377) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.47/44/73.[**Numeric Identifier **]//3
   Ve: 12.8 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Gen: Sedated on the vent, not responding to commands or withdrawing
   from painful stimuli
   HEENT: Erythema of head and neck appears somewhat more intense than
   previous. Pupils equal and reactive to light
   Heart: Tachycardic, regular, distant heart sounds
   Lungs: Rhonchi in RML
   Abd: BS+, ND, NT
   Ext: 3+ pitting edema to entire [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**]
   Labs / Radiology
   30 K/uL
   8.6 g/dL
   92 mg/dL
   3.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   55 mg/dL
   107 mEq/L
   144 mEq/L
   25.6 %
   3.0 K/uL
        [image002.jpg]
                             [**2153-3-29**]  06:21 PM
                             [**2153-3-30**]  01:08 AM
                             [**2153-3-30**]  04:52 AM
                             [**2153-3-30**]  05:20 AM
                             [**2153-3-30**]  11:41 AM
                             [**2153-3-30**]  11:59 AM
                             [**2153-3-30**]  04:30 PM
                             [**2153-3-30**]  05:58 PM
                             [**2153-3-30**]  10:00 PM
                             [**2153-3-31**]  05:37 AM
   WBC
   3.9
   3.0
   Hct
   22.8
   25.5
   23.9
   24.0
   25.5
   24.7
   25.2
   25.6
   Plt
   23
   42
   39
   57
   42
   32
   74
   30
   Cr
   3.7
   TCO2
   25
   30
   Glucose
   92
   Other labs: PT / PTT / INR:15.8/35.7/1.4, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:17/26, Alk Phos / T Bili:126/2.7,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.0 %, Mono:10.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:229 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   .
   #Bradycardia: during dialysis
   -will monitor
   .
   #. GIB: EGD overnight [**Date range (1) 5469**] showed diffuse oozing lesions that were
   injected with epinephrine. Hct stable since.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC at 3pm and MN transfuse for HCT<25
   - transfuse platelets to keep Plt>50, got 2 units overnight, and
   getting 2 units today
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   -Try to get IR guided PICC
   .
   # Respiratory: New infiltrate appearing on CXR [**3-30**]. Per ID switched
   Abx yesterday.   Still massively volume overloaded. Has not had any
   respiratory changes since being intubated.  CXR on [**3-31**] no change.
   - no SBT today, plan for SBT in the AM and then possible extubation
   -diuresing with dialysis today 4.3L taken off
   - concentrate antibiotics
   - continue vancomycin/meropenem
   -f/u sputum cx
   .
   #Fevers: Still spiking fevers, not responding to Abx. Gastric Bx
   negative for GVHD
   - f/u gastric Bx for CMV
   - ID recommendations not to change current antibiotic regimen
   - tylenol PR prn fever
   -ativan prn rigors, would not use demerol
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Per
   derm, unlikely that rash represents GVHD and gastric Bx negative for
   GVHD.  Got IVIG yesterday.
   - BMT team following, follow up recommendations
   - check cyclosporine trough today dose accordingly
 blood sent in wrong
   tube had them add it on to AM labs but concerned that could have been
   drawn through line that pt has received cyclosporine through.  Will
   continue current dosing of cyclosporine for now.
   -pt continuing to receive steroids
   -f/u UPEP checked to see if multiple myeloma is returning as this could
   change overall management and goals of care
   .
   #. Acute renal failure: Does not appear to be improving. Pt. stated
   wishes previously that he would not want to be on dialysis long term.
   Will continue to try to remove fluid w/ dialysis and UF.
   - family meeting re: goals of care.
   -took 4.3L off with dialysis today, goal by end of day -2.5L
   .
   #L eye pupil less reactive today: is still reactive but less reactive
   than right eye likely due to optho examining pt in middle of the
   night.  Optho saw no evidence of CMV in eye.  Felt eye was extremely
   dry.
   -continue eye ointment
   -start vitamin to left eye, will call pharmacy to discuss what options
   there are
   .
   #Mental staus: pt not arousable today but is on propofol
   -recheck urine benzos
   -no plan for LP as risk outweigh the benefits and already on broad
   spectrum antibiotics
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #Nutrition: Not currently getting any nutrition. Plan for TPN
   - Nutrition consult for TPN
   - PICC line placement with IR guidance for TPN
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: VIP port on dialysis catheter, art line, 2 peripherals
   ICU Care
   Nutrition: NPO, needs PICC placed to start TPN
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2153-03-31 11:29:00 Physician Attending Progress Note
Chief Complaint: 66 yr man with multiple myeloma s/p BMT with GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2153-3-30**] 05:00 PM
   SBT did not go well yesterday, needed MV for procedures
   Sputum cultures pending
   IVIG yesterday
   On HD
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-29**] 05:08 PM
   Meropenem - [**2153-3-29**] 06:43 PM
   Gancyclovir - [**2153-3-29**] 09:17 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-30**] 08:03 PM
   Morphine Sulfate - [**2153-3-30**] 11:03 PM
   Other medications:
   lidocaine patch, nystatin, cyclosporin, methylprednisone,
   anidulafungin, morphine, ativan, nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-31**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.3
C (97.3
   HR: 70 (70 - 107) bpm
   BP: 140/79(101) {104/63(80) - 160/87(113)} mmHg
   RR: 18 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
   CVP: 15 (10 - 18)mmHg
   Total In:
                                                                  2,969 mL
                                                                  1,149 mL
   PO:
   TF:
   IVF:
                                                                  1,157 mL
                                                                    399 mL
   Blood products:
                                                                  1,812 mL
                                                                    750 mL
   Total out:
                                                                    335 mL
                                                                      0 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,634 mL
                                                                  1,149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/44/73.[**Numeric Identifier **]/21/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: on r)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Rash: rash improving, blisters on forearms, legs
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   30 K/uL
   118 mg/dL
   4.4 mg/dL
   21 mEq/L
   4.2 mEq/L
   69 mg/dL
   105 mEq/L
   139 mEq/L
   25.6 %
   3.0 K/uL
        [image002.jpg]
                             [**2153-3-29**]  06:21 PM
                             [**2153-3-30**]  01:08 AM
                             [**2153-3-30**]  04:52 AM
                             [**2153-3-30**]  05:20 AM
                             [**2153-3-30**]  11:41 AM
                             [**2153-3-30**]  11:59 AM
                             [**2153-3-30**]  04:30 PM
                             [**2153-3-30**]  05:58 PM
                             [**2153-3-30**]  10:00 PM
                             [**2153-3-31**]  05:37 AM
   WBC
   3.9
   3.0
   Hct
   22.8
   25.5
   23.9
   24.0
   25.5
   24.7
   25.2
   25.6
   Plt
   23
   42
   39
   57
   42
   32
   74
   30
   Cr
   3.7
   4.4
   TCO2
   25
   30
   Glucose
   92
   118
   Other labs: PT / PTT / INR:15.8/35.7/1.4, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:[**12-7**], Alk Phos / T Bili:154/3.6,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.0 %, Mono:10.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   #Hypotension: Transient. Resolved with decreasing propofol and recurred
   with restarting propofol. Not related to changes in HR and no beta
   blockers present. Most likely represents propofol induced vasodilation,
   doubt sepsis, cardiogenic shock or hemorrhage given that it improved
   with decreasing propofol.
   - follow BP
   - minimize sedation
   #. GIB: Hct now stable from last check.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC Q4-6hrs, transfuse to keep Hct>25
   - transfuse platelets to keep Plt>50
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   # Respiratory: New infiltrate appearing on CXR this am. Per ID switched
   Abx yesterday.   Still massively volume overloaded. Has not had any
   respiratory changes since being intubated.
   - Spontaneous breathing trial unsuccessful, will try again tomorrow AM
   -diuresing with dialysis
   - concentrate antibiotics
   - vancomycin/meropenem
   .
   #Fevers: Still spiking fevers w/ rigors, not responding to Abx. Gastric
   Bx negative for GVHD
   - f/u gastric Bx for CMV
   - F/u ID reccomendations
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Per derm, unlikely that rash represents GVHD and
   gastric Bx negative for GVHD.
   - BMT team following, follow up recommendations
   - check cyclosporine trough today dose accordingly
   .
   #. Acute renal failure: Does not appear to be improving. Pt. stated
   wishes previously that he would not want to be on dialysis long term.
   Will continue to try to remove fluid w/ dialysis and UF. Resp status
   will improve with diuresis
   - family meeting re: goals of care.
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #Nutrition: Not currently getting any nutrition. Plan for TPN
   - Nutrition consult for TPN
   - PICC line placement for TPN
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2153-04-01 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ID recfs continue all current meds
   -BMT recs to get chest/abd/pelvis no contrast in AM to look for
   infection
   -optho rec vitamins to eyes, did not think he had CMV retinitis
   -vanco level 15.5, got vanco after dialysis
   -cyclosporine level high, d/c cyclosporine, get level in AM. Then
   decrease dose to 25mg [**Hospital1 **] if level is <200
   -transfused 3 units of platelets goal>50
   -HCT stable 24.4
   -will get SBT tomorrow in AM
   -I/Os goal was -2.5L got 4.3 L off with dialysis
   -want to get urine benzos but not enough urine yet
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-31**] 02:37 PM
   Meropenem - [**2153-3-31**] 03:36 PM
   Gancyclovir - [**2153-3-31**] 05:04 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-3-31**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-1**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 56 (48 - 83) bpm
   BP: 139/77(99) {128/72(91) - 157/91(118)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 111.8 kg (admission): 107.6 kg
    CVP: 11 (9 - 20)mmHg
   Total In:
                                                                  2,647 mL
                                                                    178 mL
   PO:
   TF:
   IVF:
                                                                  1,482 mL
                                                                    178 mL
   Blood products:
                                                                  1,165 mL
   Total out:
                                                                  4,300 mL
                                                                     60 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,653 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/33/89.[**Numeric Identifier 433**]/23/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: Sedated on the vent, not responding to commands or withdrawling
   from painful stimuli
   HEENT: pupils equal and reactiv to ligtht, less erythema of face
   Heart: RRR, no MRG
   Lungs: coarse breath sounds in RUL
   Abd: Soft, NT, ND, BS+
   Ext: 3+ pitting edema
   Labs / Radiology
   43 K/uL
   8.9 g/dL
   159 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   61 mg/dL
   106 mEq/L
   141 mEq/L
   25.6 %
   2.8 K/uL
        [image002.jpg]
                             [**2153-3-30**]  11:59 AM
                             [**2153-3-30**]  04:30 PM
                             [**2153-3-30**]  05:58 PM
                             [**2153-3-30**]  10:00 PM
                             [**2153-3-31**]  05:37 AM
                             [**2153-3-31**]  11:02 AM
                             [**2153-3-31**]  05:00 PM
                             [**2153-3-31**]  05:15 PM
                             [**2153-3-31**]  10:00 PM
                             [**2153-4-1**]  04:24 AM
   WBC
   3.0
   3.0
   3.2
   2.8
   Hct
   25.5
   24.7
   25.2
   25.6
   25.1
   24.4
   25.3
   25.6
   Plt
   42
   32
   74
   30
   44
   39
   56
   43
   Cr
   4.4
   3.8
   TCO2
   30
   26
   Glucose
   118
   159
   Other labs: PT / PTT / INR:13.8/35.7/1.2, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:[**12-7**], Alk Phos / T Bili:154/3.6,
   Differential-Neuts:73.0 %, Band:6.0 %, Lymph:12.0 %, Mono:8.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   .
   .
   #. GIB: EGD overnight [**Date range (1) 5469**] showed diffuse oozing lesions that were
   injected with epinephrine. Hct stable since.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check  Hct Q12
   - transfuse platelets to keep Plt>50,
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   -Try to get IR guided PICC
   .
   # Respiratory: New infiltrate appearing on CXR [**3-30**]. Per ID switched
   Abx yesterday.   Still massively volume overloaded. Has not had any
   respiratory changes since being intubated.  CXR on [**3-31**] no change.
   - no SBT today, plan for SBT in the AM and then possible extubation
   -diuresing with dialysis today 4.3L taken off
   - concentrate antibiotics
   - continue vancomycin/meropenem
   -f/u sputum cx
   .
   #Fevers: Still spiking fevers, not responding to Abx. Gastric Bx
   negative for GVHD
   - f/u gastric Bx for CMV
   - ID recommendations not to change current antibiotic regimen
   - tylenol PR prn fever
   -ativan prn rigors, would not use demerol
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Per
   derm, unlikely that rash represents GVHD and gastric Bx negative for
   GVHD.  Got IVIG yesterday.
   - BMT team following, follow up recommendations
   - check cyclosporine trough today dose accordingly
 blood sent in wrong
   tube had them add it on to AM labs but concerned that could have been
   drawn through line that pt has received cyclosporine through.  Will
   continue current dosing of cyclosporine for now.
   -pt continuing to receive steroids
   -f/u UPEP checked to see if multiple myeloma is returning as this could
   change overall management and goals of care
   .
   #. Acute renal failure: Does not appear to be improving. Pt. stated
   wishes previously that he would not want to be on dialysis long term.
   Will continue to try to remove fluid w/ dialysis and UF.
   - family meeting re: goals of care.
   -took 4.3L off with dialysis today, goal by end of day -2.5L
   .
   #L eye pupil less reactive today: is still reactive but less reactive
   than right eye likely due to optho examining pt in middle of the
   night.  Optho saw no evidence of CMV in eye.  Felt eye was extremely
   dry.
   -continue eye ointment
   -start vitamin to left eye, will call pharmacy to discuss what options
   there are
   .
   #Mental staus: pt not arousable today but is on propofol
   -recheck urine benzos
   -no plan for LP as risk outweigh the benefits and already on broad
   spectrum antibiotics
   .
   #. h/o VOD: s/p defibrotide.
   - trend LFTs
   .
   #Nutrition: Not currently getting any nutrition. Plan for TPN once we
   can get a PICC in.
   - Nutrition consult for TPN
   - PICC line placement with IR guidance for TPN
   .
   #Bradycardia: during dialysis, HR>45 all night, HD stable. No e/o
   block. PR interval 0.17 during bradycardia o/n
   -will continue to monitor on tele
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: VIP port on dialysis catheter, art line, 2 peripherals
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-01 12:46:00 Physician Attending Progress Note
Chief Complaint: Multiple Myeloma s/p BMT X2, fluid overload, ? PNA, on
   MV support, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2153-3-31**] 01:00 PM
   Did well on SBT this AM but not very alert
   ID recommended current Ab continue
   BMT wants total body scan
   Ophthamology did not seen CMV retinitis
   Dialysis yesterday
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-31**] 02:37 PM
   Meropenem - [**2153-3-31**] 03:36 PM
   Gancyclovir - [**2153-3-31**] 05:04 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-1**] 08:16 AM
   Other medications:
   pantoprazole, lidocaine patch, nystatin susp, folic a, mupiricin cream,
   methyl prednisone, anidalofungin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-1**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 72 (48 - 83) bpm
   BP: 156/92(118) {130/72(92) - 159/96(121)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
   CVP: 15 (9 - 20)mmHg
   Total In:
                                                                  2,647 mL
                                                                    248 mL
   PO:
   TF:
   IVF:
                                                                  1,482 mL
                                                                    248 mL
   Blood products:
                                                                  1,165 mL
   Total out:
                                                                  4,300 mL
                                                                     60 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,653 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 377 (377 - 377) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.50/35/92.[**Numeric Identifier 641**]/23/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   43 K/uL
   159 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   61 mg/dL
   106 mEq/L
   141 mEq/L
   25.6 %
   2.8 K/uL
        [image002.jpg]
                             [**2153-3-30**]  04:30 PM
                             [**2153-3-30**]  05:58 PM
                             [**2153-3-30**]  10:00 PM
                             [**2153-3-31**]  05:37 AM
                             [**2153-3-31**]  11:02 AM
                             [**2153-3-31**]  05:00 PM
                             [**2153-3-31**]  05:15 PM
                             [**2153-3-31**]  10:00 PM
                             [**2153-4-1**]  04:24 AM
                             [**2153-4-1**]  09:40 AM
   WBC
   3.0
   3.0
   3.2
   2.8
   Hct
   25.5
   24.7
   25.2
   25.6
   25.1
   24.4
   25.3
   25.6
   Plt
   42
   32
   74
   30
   44
   39
   56
   43
   Cr
   4.4
   3.8
   TCO2
   26
   28
   Glucose
   118
   159
   Other labs: PT / PTT / INR:13.8/35.7/1.2, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:[**12-7**], Alk Phos / T Bili:154/3.6,
   Differential-Neuts:63.0 %, Band:0.0 %, Lymph:23.0 %, Mono:9.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   #Hypotension: Transient. Resolved with decreasing propofol and recurred
   with restarting propofol. Not related to changes in HR and no beta
   blockers present. Most likely represents propofol induced vasodilation,
   doubt sepsis, cardiogenic shock or hemorrhage given that it improved
   with decreasing propofol.
   - follow BP
   - minimize sedation
    #. GIB: Hct now stable from last check.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC Q4-6hrs, transfuse to keep Hct>25
   - transfuse platelets to keep Plt>50
   - Maintain active type and cross
    - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
    # Respiratory: New infiltrate appearing on CXR this am. Per ID
   switched Abx yesterday.   Volume overloaded but improved. Has not had
   any respiratory changes since being intubated.
   - Spontaneous breathing trial successful
    -diuresing with dialysis
    - vancomycin/meropenem
   -Will extubate this afternoon.
    #Fevers: Still spiking fevers w/ rigors, not responding to Abx.
   Gastric Bx negative for GVHD
   - f/u gastric Bx for CMV
   - F/u ID reccomendations
    #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently. Per derm, unlikely that rash represents GVHD and
   gastric Bx negative for GVHD.
   - BMT team following, follow up recommendations. Full body CT per BMT
   to look for other sources of infection.
   - check cyclosporine trough today dose accordingly
    #. Acute renal failure: Does not appear to be improving. Pt. stated
   wishes previously that he would not want to be on dialysis long term.
   Will continue to try to remove fluid w/ dialysis and UF. Resp status
   will improve with diuresis
    - family meeting re: goals of care - still full code
   # h/o VOD: s/p defibrotide.
      - trend LFTs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-04-02 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated successfully
   CT pan scan done, Abd/pelv negative, head pending final read
   BMT recommended sending CMV VL [**4-2**]
   Got a dose of CSA based on trough
   Urine benzos still positive
   Tbili stable but slightly elevated from previous
   No new growth from cultures
   Ordered IR for PICC for TPN, but pt. may be able to eat so ordered S/S
   cs.
   Started on daily cyclosporine 25mg IV
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-31**] 02:37 PM
   Gancyclovir - [**2153-3-31**] 05:04 PM
   Meropenem - [**2153-4-1**] 04:24 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-1**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.3
C (95.5
   HR: 62 (50 - 90) bpm
   BP: 162/89(118) {150/82(107) - 177/113(136)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
    CVP: 12 (11 - 347)mmHg
   Total In:
                                                                  1,396 mL
                                                                     86 mL
   PO:
   TF:
   IVF:
                                                                    894 mL
                                                                     86 mL
   Blood products:
                                                                    502 mL
   Total out:
                                                                    120 mL
                                                                      0 mL
   Urine:
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (348 - 377) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: 7.47/34/104/21/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: Sedated on the vent, not responding to commands or withdrawling
   from painful stimuli
   HEENT: pupils equal and reactiv to ligtht, less erythema of face
   Heart: RRR, no MRG
   Lungs: coarse breath sounds in RUL
   Abd: Soft, NT, ND, BS+
   Ext: 3+ pitting edema
   Labs / Radiology
   41 K/uL
   8.6 g/dL
   145 mg/dL
   4.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   89 mg/dL
   106 mEq/L
   142 mEq/L
   25.7 %
   3.0 K/uL
        [image002.jpg]
                             [**2153-3-31**]  10:00 PM
                             [**2153-4-1**]  04:24 AM
                             [**2153-4-1**]  09:40 AM
                             [**2153-4-1**]  01:50 PM
                             [**2153-4-1**]  02:00 PM
                             [**2153-4-1**]  06:20 PM
                             [**2153-4-1**]  08:30 PM
                             [**2153-4-1**]  08:50 PM
                             [**2153-4-2**]  04:02 AM
                             [**2153-4-2**]  05:05 AM
   WBC
   3.2
   2.8
   3.0
   Hct
   25.3
   25.6
   25.4
   26.5
   25.7
   Plt
   56
   43
   34
   44
   51
   41
   Cr
   3.8
   4.6
   TCO2
   28
   28
   27
   25
   Glucose
   159
   145
   Other labs: PT / PTT / INR:13.4/28.5/1.2, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   .
   .
   #. GIB: Hct stable, HD stable. No transfusions since [**3-30**].
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check  Hct Q12
   - transfuse platelets to keep Plt>50,
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   -Try to get IR guided PICC likely on monday
   .
   # Respiratory: Afebrile x >24hours, following commands so was extubated
   and is satting well on room air. Will continue treating for PNA. Sputum
   cultures growing oropharyngeal flora.
   -diuresing with dialysis tomorrow
   - concentrate antibiotics
   - continue vancomycin/meropenem
   -f/u sputum cx
   .
   #FUO: Has been afebrile x>24hrs, possibly responding to Abx change.
   Gastric Bx negative for GVHD and CMV
   - ID recommendations not to change current antibiotic regimen
   - tylenol PR prn fever
   -ativan prn rigors, would not use demerol
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Per
   derm, unlikely that rash represents GVHD and gastric Bx negative for
   GVHD.  Got IVIG yesterday.
   - BMT team following, follow up recommendations
   - check cyclosporine trough today dose accordingly
 blood sent in wrong
   tube had them add it on to AM labs but concerned that could have been
   drawn through line that pt has received cyclosporine through.  Will
   continue current dosing of cyclosporine for now.
   -pt continuing to receive steroids
   -f/u UPEP checked to see if multiple myeloma is returning as this could
   change overall management and goals of care
   .
   #. renal failure: Will readdress goals of care once this acute episode
   is concluded.
   - family meeting re: goals of care.
   - continue HD w/ fluid removal.
   .
   #Mental staus: Slowly improving off of sedation, following commands.
   Urine benzos were still positive, likely in setting of renal failure he
   is not clearing his sedation from being on the vent.
   - will hold on LP for now and do CT
   .
   #. h/o VOD: s/p defibrotide. Tbili up yesterday, possibly from
   transfusions vs. dialysis
   - repeat Tbili and fractionate
   - trend LFTs
   .
   #Nutrition: Not currently getting any nutrition. Plan for TPN once we
   can get a PICC in.
   - Nutrition consult for TPN
   - PICC line placement with IR guidance for TPN
   .
   #Bradycardia: HD stable and no e/o block
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: VIP port on dialysis catheter, art line, 2 peripherals
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-02 10:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon - doing well
   Remained afebrile overnight
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-31**] 02:37 PM
   Gancyclovir - [**2153-3-31**] 05:04 PM
   Meropenem - [**2153-4-1**] 04:24 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-1**] 08:24 PM
   Other medications:
   lidocaine patch, folic a , nystatin, methylprednisolone 20 q 12,
   anidalofungin, cyclosporin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-2**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 59 (50 - 90) bpm
   BP: 140/89(110) {140/81(105) - 177/113(136)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 111.8 kg (admission): 107.6 kg
   CVP: 12 (11 - 347)mmHg
   Total In:
                                                                  1,396 mL
                                                                    186 mL
   PO:
   TF:
   IVF:
                                                                    894 mL
                                                                    186 mL
   Blood products:
                                                                    502 mL
   Total out:
                                                                    120 mL
                                                                      0 mL
   Urine:
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (348 - 348) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: 7.47/34/104/21/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Eyes / Conjunctiva: conjunctival hemorrhage
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Tactile stimuli, Movement: Non
   -purposeful, Tone: Decreased
   Labs / Radiology
   8.6 g/dL
   41 K/uL
   145 mg/dL
   4.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   89 mg/dL
   106 mEq/L
   142 mEq/L
   25.7 %
   3.0 K/uL
        [image002.jpg]
                             [**2153-3-31**]  10:00 PM
                             [**2153-4-1**]  04:24 AM
                             [**2153-4-1**]  09:40 AM
                             [**2153-4-1**]  01:50 PM
                             [**2153-4-1**]  02:00 PM
                             [**2153-4-1**]  06:20 PM
                             [**2153-4-1**]  08:30 PM
                             [**2153-4-1**]  08:50 PM
                             [**2153-4-2**]  04:02 AM
                             [**2153-4-2**]  05:05 AM
   WBC
   3.2
   2.8
   3.0
   Hct
   25.3
   25.6
   25.4
   26.5
   25.7
   Plt
   56
   43
   34
   44
   51
   41
   Cr
   3.8
   4.6
   TCO2
   28
   28
   27
   25
   Glucose
   159
   145
   Other labs: PT / PTT / INR:13.4/28.5/1.2, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:[**12-7**], Alk Phos / T Bili:154/2.7,
   Differential-Neuts:63.0 %, Band:0.0 %, Lymph:23.0 %, Mono:9.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
    #Hypotension: Transient.  - follow BP
   - minimize sedation
    #GIB: Hct now stable from last check.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check CBC daily, transfuse to keep Hct>25
   - transfuse platelets to keep Plt>20
   - Maintain active type and cross
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   # Respiratory: New infiltrate appearing on CXR this am. Per ID switched
   Abx yesterday.   Volume overloaded but improved
    #Fevers: Afebrile last 24 hrs
   - f/u gastric Bx for CMV
   - F/u ID reccomendations
    #. Multiple myeloma: admitted for chemotherapy this admission. Not
   neutropenic currently.
   - BMT team following, follow up recommendations. Full body CT per BMT
   to look for other sources of infection showed multifocal pulm
   infltrates, bilat effusions but afebrile on current AB
   - check cyclosporine trough today dose accordingly
    #. Acute renal failure: Does not appear to be improving. Pt. stated
   wishes previously that he would not want to be on dialysis long term.
   Continuing to remove fluid w/ dialysis and UF.
    - family meeting re: goals of care - still full code
    # h/o VOD: s/p defibrotide.
      - trend LFTs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-04-03 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-3-31**] 02:37 PM
   Gancyclovir - [**2153-3-31**] 05:04 PM
   Meropenem - [**2153-4-2**] 04:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-2**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-3**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 71 (56 - 72) bpm
   BP: 150/81(108) {138/75(101) - 173/105(126)} mmHg
   RR: 18 (16 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                    598 mL
                                                                     48 mL
   PO:
   TF:
   IVF:
                                                                    598 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                      0 mL
   Urine:
                                                                     80 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -3,583 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   8.4 g/dL
   144 mg/dL
   4.6 mg/dL
   22 mEq/L
   4.5 mEq/L
   116 mg/dL
   105 mEq/L
   141 mEq/L
   24.8 %
   3.5 K/uL
        [image002.jpg]
                             [**2153-4-1**]  09:40 AM
                             [**2153-4-1**]  01:50 PM
                             [**2153-4-1**]  02:00 PM
                             [**2153-4-1**]  06:20 PM
                             [**2153-4-1**]  08:30 PM
                             [**2153-4-1**]  08:50 PM
                             [**2153-4-2**]  04:02 AM
                             [**2153-4-2**]  05:05 AM
                             [**2153-4-2**]  04:45 PM
                             [**2153-4-3**]  04:05 AM
   WBC
   3.0
   3.5
   Hct
   25.4
   26.5
   25.7
   25.5
   24.8
   Plt
   34
   44
   51
   41
   35
   33
   Cr
   4.6
   TCO2
   28
   28
   27
   25
   Glucose
   145
   144
   Other labs: PT / PTT / INR:13.5/26.8/1.2, CK / CKMB /
   Troponin-T:25/3/0.05, ALT / AST:[**12-7**], Alk Phos / T Bili:154/2.7,
   Differential-Neuts:63.0 %, Band:0.0 %, Lymph:23.0 %, Mono:9.0 %,
   Eos:0.0 %, D-dimer:8371 ng/mL, Fibrinogen:345 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, fevers and rigors.
   .
   .
   #. GIB: Hct stable, HD stable. No transfusions since [**3-30**].   For now,
   will avoid placement of NG tube for now given patient
s friable
   mucosa.
   - GI following appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check  Hct Q12
   - Maintain active t & C, transfuse platelets to keep Plt>20,
   - Access: RIJ HD catheter, R wrist 22g PIV, R arm 20 gauge
   -Try to get IR guided PICC likely tomorrow
   .
   # Respiratory: Afebrile x >24hours, following commands so was extubated
   and is satting well on room air. Will continue treating for PNA. Sputum
   cultures growing oropharyngeal flora.  CT chest with interstitial
   changes concerning for pneumonia.  For now, ok with Vanc/[**Last Name (un) 1540**], however
   is patient clinically not improve, consider adding coverage for
   atypicals.
   - diuresing with Ultrafiltration today
   - continue vancomycin/meropenem
   - f/u sputum cx
   .
   #FUO: Has been afebrile x>24hrs, possibly responding to Abx change.
   Gastric Bx negative for GVHD and CMV.  Patient
s CT Torso was negative
   for abcess.
   - ID recommendations not to change current antibiotic regimen
   - tylenol PR prn fever
   -ativan prn rigors, would not use demerol
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Per
   derm, unlikely that rash represents GVHD and gastric Bx negative for
   GVHD.
   - BMT team following, follow up recommendations
   - Based on cyclospone level, redose to 25mg IV BID
   - pt continuing to receive steroids
   - f/u UPEP checked to see if multiple myeloma is returning as this
   could change overall management and goals of care
   .
   #. renal failure: - continue HD w/ fluid removal.
   #Mental staus: Slowly improving off of sedation, following commands.
   - Monitor
   .
   #. h/o VOD: s/p defibrotide. Tbili up yesterday, possibly from
   transfusions vs. dialysis
   - repeat Tbili and fractionate
   - trend LFTs
   .
   #Nutrition: Not currently getting any nutrition. Plan for TPN once we
   can get a PICC in.  Given patient
s friable mucosa, concern for placing
   NG tube.   Patient will likely not take enough POs to meet nutritional
   needs.
   - Speech/Swallow consult
   - Nutrition consult for TPN
   - PICC line placement with IR guidance for TPN Tuesday
   .
   #Bradycardia: HD stable and no e/o block
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: VIP port on dialysis catheter, art line, 2 peripherals
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   Arterial Line - [**2153-3-26**] 08:25 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-04-04 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  FUO/UGI bleed
   24 Hour Events:
   -changed steroids to 15 [**Hospital1 **] per BMT recs
   -S & S will eval pt on [**4-4**]
   -GI said fine with patient eating, recommend against NG tube
   -HD line with VIP to be placed tomorrow
   -PICC line on hold pending Speech/Swallow recommendations
   -cyclosporine dose adjusted to 25 qAM and 37.5 qpm
   -started on bactrim IV for prophylaxis for PCP, [**Name10 (NameIs) **] to PO when able
   -HCT 24.8 -> 24.4
   -large melanotic stool at MN
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2153-4-2**] 04:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-4**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 66 (59 - 85) bpm
   BP: 141/77(94) {122/71(83) - 151/95(109)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.8 kg (admission): 107.6 kg
             Total In:
                                                                    451 mL
                                                                     92 mL
   PO:
             TF:
   IVF:
                                                                    451 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Gen: Awake, oriented to person and place
   Heart: RRR, distant heart sounds
   Lungs: Poor air movement diffusely
   Abd: Soft, NT, ND, BS+
   Ext: LE
s continue to be massively fluid overloaded, do not appear to
   have any new blistering.
   Labs / Radiology
   31 K/uL
   8.3 g/dL
   135 mg/dL
   4.3 mg/dL
   21 mEq/L
   4.3 mEq/L
   112 mg/dL
   109 mEq/L
   144 mEq/L
   24.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2153-4-1**]  01:50 PM
                             [**2153-4-1**]  02:00 PM
                             [**2153-4-1**]  06:20 PM
                             [**2153-4-1**]  08:30 PM
                             [**2153-4-1**]  08:50 PM
                             [**2153-4-2**]  04:02 AM
                             [**2153-4-2**]  05:05 AM
                             [**2153-4-2**]  04:45 PM
                             [**2153-4-3**]  04:05 AM
                             [**2153-4-3**]  11:01 PM
   WBC
   3.0
   3.5
   5.3
   Hct
   25.4
   26.5
   25.7
   25.5
   24.8
   24.4
   Plt
   34
   44
   51
   41
   35
   33
   31
   Cr
   4.6
   5.1
   4.3
   TCO2
   28
   27
   25
   Glucose
   145
   144
   135
   Other labs: CK / CKMB / Troponin-T:25/3/0.05, ALT / AST:21/43, Alk Phos
   / T Bili:207/4.0, Albumin:2.4 g/dL, LDH:391 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   66M with h/o  SCT on CSA p/w upper GIB, FUO.
   .
   #. GIB: Hct stable, HD stable. No transfusions since [**3-30**].  Will start
   pt. on clear liquids and avoid solid food for now given friable
   mucosa.  Patient had large melanotic BM and small melanotic BM this
   AM.  It is unclear if this is new vs old blood that is passing.  Will
   need to recheck HCTs.
   - GI following, appreciate recs
   - Continue protonix 40mg IV BID
   - Monitor BP and tachycardia for stablity, hold beta blocker
   - Check  Hct [**Hospital1 **] for now
   - Goal platelets >20,
   - Access: RIJ HD catheter (not working), R wrist 18g PIV, R arm 20
   gauge
   .
   # Respiratory: Afebrile x >48hours
   - diuresing with Ultrafiltration today  after line replaced
   - hold Vanco today as trough is high
   .
   #FUO: Has been afebrile x>48hrs, possibly responding to Abx change.
   Gastric Bx negative for GVHD, CMV stains pending.
   - ID recommendations consider d/c vanc.
   - tylenol PR prn fever
   -ativan prn rigors, would not use demerol
   - Cont Vanco/[**Last Name (un) 1540**]/Gancyclo/Anidulafungin
   .
   #. Multiple myeloma: admitted for chemotherapy this admission. Per
   derm, unlikely that rash represents GVHD and gastric Bx negative for
   GVHD.  UPEP pending.
   - BMT team following, follow up recommendations
   - Continue Cyclosporine 25/37.5mg IV BID
   - Continue Methylprednisolone 15mg IV BID
   - f/u UPEP
   .
   #. renal failure: - HD line not functioning.  Patient had 2hrs of HD
   yesterday, Cr trended downward.  Paitent had produced some urine
   overnight.  No emergent need for HD today.
   - Plan to watch Cr, UOP
   - hold on replacing HD line today
   - Place Condom cath
   #Mental staus: Slowly improving off of sedation, following commands.
   - avoid psychoactive meds
   .
   #. h/o VOD:  Patient has had LFTs trended after prior VOD.  Patient
   AST has slightly increased and bilirubin.  AP and LDH has also
   increased.  Patient had been treated for VOD last month.
   - Check LFTs today
   - Check Direct Bilirubin
   - Consult BMT re: VOD
   .
   #Nutrition: Not currently getting any nutrition.  Decided against PICC
   because of risk of infection.  Will start pt. on PO if not aspirating
   - Speech/Swallow consult today.
   .
   PPx: Pneumoboots, PPI
   .
   Code: Full
   .
   Access: 2 peripherals, non functioning dialysis catheter.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-3-26**] 12:51 AM
   20 Gauge - [**2153-3-29**] 10:00 PM
   18 Gauge - [**2153-4-3**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To BMT once stable